US07109228B2
4-[(Methylamino)methyl]benzonitrile
4-Cyanobenzaldehyde (12.0 g, 92.0 mmol), methylamine (69 ml of a 2.0M solution in tetrahydrofuran, 137 mmol) and magnesium sulphate (45 g) were stirred in dichloromethane (300 ml) at room temperature for 5 days. The mixture was filtered and the filtrate was concentrated under reduced pressure to leave a yellow oil. The oil was dissolved in methanol (200 ml) and sodium borohydride (4.10 g, 109 mmol) was added cautiously with vigorous stirring. Once the addition was complete the reaction was stirred for 1 hour and the mixture was concentrated under reduced pressure. The residue was dissolved in 1M aqueous sodium hydroxide solution (200 ml) and the mixture was stirred at room temperature for 1 hour. The resulting solution was extracted with dichloromethane (2×200 ml) and the combined organic phases were dried over magnesium sulphate, filtered and concentrated under reduced pressure to provide the title compound (13.4 g) as a pale yellow oil.

reactant | 4-Cyanobenzaldehyde | 92.0 mmol, 12.0 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | methylamine | CN | CH5N
reactant | magnesium sulphate | 45 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 109 mmol, 4.10 g | [BH4-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | methanol | 200 ml | CO | CH4O
product | 4-[(Methylamino)methyl]benzonitrile | 13.4 g | CNCC1=CC=C(C#N)C=C1 | C9H10N2
